US07354932B2
Preparation of 7-(4-tert-butoxycarbonylamino-butylamino)-4,5,6,7-tetrahydrobenzoimidazole-1-carboxylic acid tert-butyl ester
To a solution of 7-oxo-4,5,6,7-tetrahydorbenzoimidazole-1-carboxylic acid tert-butyl ester (632 mg, 2.82 mmol) in CH2Cl2 (50 mL) at room temperature under inert atmosphere was added (4-amino-butyl)carbamic acid tert-butyl ester (745 mg, 4.23 mmol) followed by sodium triacetoxyborohydride (896 mg, 4.23 mmol). The reaction mixture was stirred at room temperature for 17 hours. Saturated sodium bicarbonate solution (20 mL) was added and the mixture was extracted with dichloromethane (3×30 mL). The combined organic extracts were washed with brine, dried (MgSO4), filtered and concentrated. The resultant material was purified by column chromatography on silica gel (20:1:1 CH2Cl2:MeOH:NH4OH) to provide the product (558 mg, 48%): 1H NMR (CDCl3): δ 1.42 (s, 9H), 1.59 (s, 9H), 1.50-1.62 (m, 4H), 1.71-1.77 (2H), 1.82-2.00 (m, 2H), 2.06 (s, 1H), 2.73-2.87 (m, 4H), 3.09-3.13 (m, 2H), 3.33 (br s, 1H), 3.75-3.80 (m, 1H), 5.01 (br s, 1H), 7.96 (s, 1H).

reactant | 7-oxo-4,5,6,7-tetrahydorbenzoimidazole-1-carboxylic acid tert-butyl ester | 2.82 mmol, 632 mg | C(C)(C)(C)OC(=O)N1C=NC2=C1C(CCC2)=O | C12H16N2O3
reactant | (4-amino-butyl)carbamic acid tert-butyl ester | 4.23 mmol, 745 mg | C(C)(C)(C)OC(NCCCCN)=O | C9H20N2O2
reactant | sodium triacetoxyborohydride | 4.23 mmol, 896 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 7-(4-tert-butoxycarbonylamino-butylamino)-4,5,6,7-tetrahydrobenzoimidazole-1-carboxylic acid tert-butyl ester | 558 mg, 48% | C(C)(C)(C)OC(=O)N1C=NC2=C1C(CCC2)NCCCCNC(=O)OC(C)(C)C | C21H36N4O4
